US06043248
3-Acetyl-isoquinoline (1.53 g, 8.9 mmole) is dissolved in 42 ml methanol in a 100 ml one neck round bottom flask at 0° C. The solution is treated portionwise with sodium borohydride (388 mg, 10.3 mmole) and the reaction mixture is stirred 30 min at 0° C. The volatiles are removed in vacuo and the residue is partitioned between 1×100 ml 1N sodium hydroxide and 3×25 ml dichloromethane. The combined organics are dried over potassium carbonate and are concentrated in vacuo to a pale yellow solid. The crude material is chromatographed over 60 g silica gel (230-400 mesh), eluting with 40% acetone/hexane, while collecting 9 ml fractions. Fractions 26-45 are combined and concentrated to afford 1.23 g (80%) of 3-(1-hydroxyethyl)-isoquinoline.

reactant | 3-Acetyl-isoquinoline | 8.9 mmole, 1.53 g | C(C)(=O)C=1N=CC2=CC=CC=C2C1 | C11H9NO
reactant | sodium borohydride | 10.3 mmole, 388 mg | [BH4-].[Na+]
solvent | methanol | 42 ml | CO | CH4O
product | 3-(1-hydroxyethyl)-isoquinoline | 1.23 g, 80% | OC(C)C=1N=CC2=CC=CC=C2C1 | C11H11NO
